US06677462B2
To a stirred suspension of NaH (60% suspension in mineral oil, 1.42 g, 36 mmol) in dry THF (50 mL) was added ethyl acetoacetate (4.3 g, 33 mmol) dropwise at 0° C. After 10 min stirring at this temperature, a 2.0 M solution of n-BuLi in cyclohexane (17.7 mL, 35 mmol) was added dropwise under N2. The stirring was continued at 0° C. for 10 min., 4-fluorobenzyl bromide (9.45 g, 50 mmol) was then added dropwise at 0° C. The resultant solution was allowed to warm to rt. After 20 min, the reaction as quenched with 2 N HCl/Et2O (20 mL/40 mL). Layers were separated, the aqueous layer was extracted with ether (3×50 mL). Combined ether solution was washed with H2O (50 mL), brine (50 mL), and dried with Na2SO4. After removal of the solvent under reduced pressure, the resultant oily material was purified by flush column chromatography on silica gel (hexane to 4:1 hexane/EtOAc). The corresponding intermediate 5-(4-Fluoro-phenyl)-3-oxo-pentanoic acid ethyl ester was obtained as a colorless liquid (7.16 g, 92%). 1H NMR (300 MHz, CDCl3) δ1.25 (t, 3H, J=7), 2.80-2.95 (m, 4H), 3.40 (s, 2H), 4.10-4.25 (m, 2H), 6.9-7.0 (m, 2H), 7.1-7.2 (m, 2H). ESMS calcd (C13H15FO3): 238.1; found: 239.1 (M+H)+.

reactant | NaH | 36 mmol, 1.42 g | [H-].[Na+]
reactant | ethyl acetoacetate | 33 mmol, 4.3 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | n-BuLi | [Li]CCCC
reactant | cyclohexane | 35 mmol, 17.7 mL | C1CCCCC1 | C6H12
reactant | 4-fluorobenzyl bromide | 50 mmol, 9.45 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-(4-Fluoro-phenyl)-3-oxo-pentanoic acid ethyl ester | C(C)OC(CC(CCC1=CC=C(C=C1)F)=O)=O | C13H15FO3
